US07351733B2
2-Bromo-N-pyrimidin-2-yl-5,6,7,8,9,10-hexahydrocyclohepta[b]indol-6-amine was prepared from 2-bromo-5,6,7,8,9,10-hexahydrocyclohepta[b]indol-6-amine (150 mg, 0.54 mmol) and 2-chloropyrimidine (123 mg, 1.07 mmol) in a similar manner as described in Example 22 to give 18 mg (9%) of a yellow solid. 1H-NMR (DMSO-d6): δ 10.80 (s, 1H), 8.31 (d, 2H), 7.57 (s, 1H), 7.49 (d, 1H), 7.20 (d, 1H), 7.07-7.04 (m, 1H), 6.60 (t, 1H), 5.36-533 (m, 1H), 2.94-2.89 (m, 1H), 2.70-2.63 (m, 1H), 2.05-1.94 (m, 2H), 1.89-1.59 (m, 4H); MS m/z (M+1) 357, 359; (M−1) 355, 357.

reactant | 2-bromo-5,6,7,8,9,10-hexahydrocyclohepta[b]indol-6-amine | 0.54 mmol, 150 mg | BrC=1C=C2C3=C(NC2=CC1)C(CCCC3)N | C13H15BrN2
reactant | 2-chloropyrimidine | 1.07 mmol, 123 mg | ClC1=NC=CC=N1 | C4H3ClN2
product | 2-Bromo-N-pyrimidin-2-yl-5,6,7,8,9,10-hexahydrocyclohepta[b]indol-6-amine | BrC=1C=C2C3=C(NC2=CC1)C(CCCC3)NC3=NC=CC=N3 | C17H17BrN4
